US04667021
4-aminoazobenzene;
4-amino-2'-methylazobenzene; 4-amino-3'-methylazobenzene; 4-amino-4'-methylazobenzene; 4-amino-2'-methoxyazobenzene; 4-amino-3'-methoxyazobenzene; 4-amino-4'-methoxyazobenzene; 4-amino-2'-chloroazobenzene; 4-amino-3'-chloroazobenzene; 4-amino-4'-chloroazobenzene; 4-amino-2'-methoxy-4',6'-dimethylazobenzene; 4-aminoazobenzene-2'-sulfonic acid; 4-aminoazobenzene-3'-sulfonic acid; 4-aminoazobenzene-4'-sulfonic acid; 4-aminoazobenzene-2'-carboxylic acid; 4-aminoazobenzene-3'-carboxylic acid; 4-aminoazobenzene-4'-carboxylic acid; 4-aminoazobenzene-2',5'-disulfonic acid; 4-amino-5'-chloroazobenzene-2'-sulfonic acid; 4-amino-2',5'-dichloroazobenzene-4'-sulfonic acid; 4-amino-4',6'-dichloroazobenzene-2'-sulfonic acid; 4-amino-4',6'-dimethylazobenzene-2'-sulfonic acid; 4-amino-2'-methyl-6'-chloroazobenzene-4'-sulfonic acid; 4-aminoazobenzene-3,2'-disulfonic acid; 4-aminoazobenzene-3,3'-disulfonic acid; 4-aminoazobenzene-3,4'-disulfonic acid; 4-aminoazobenzene- 3,2',5'-trisulfonic acid; 4-amino-5'-chloroazobenzene-3,2'-disulfonic acid; 4-aminoazobenzene-3-sulfonic acid; 4-amino-3-methylazobenzene-2'-sulfonic acid; 4-amino-3-methylazobenzene-3'-sulfonic acid; 4-amino-3-methylazobenzene-4'-sulfonic acid; 4-amino-3-methylazobenzene-2',5'-disulfonic acid; 4-amino-2-methylazobenzene-4'-sulfonic acid; 4-amino-2-methylazobenzene-3'-sulfonic acid; 4-amino-2-methylazobenzene-2',5'-disulfonic acid; 4-amino-3-methoxyazobenzene-3'-sulfonic acid; 4-amino-3-methoxyazobenzene-4'-sulfonic acid and 4-amino-3-methoxyazobenzene-2',5'-disulfonic acid.

reactant | 4-amino-2'-methylazobenzene | NC1=CC=C(C=C1)N=NC1=C(C=CC=C1)C | C13H13N3
reactant | 4-amino-3'-methylazobenzene | NC1=CC=C(C=C1)N=NC1=CC(=CC=C1)C | C13H13N3
reactant | 4-amino-4'-methylazobenzene | NC1=CC=C(C=C1)N=NC1=CC=C(C=C1)C | C13H13N3
reactant | 4-amino-2'-methoxyazobenzene | NC1=CC=C(C=C1)N=NC1=C(C=CC=C1)OC | C13H13N3O
reactant | 4-amino-3'-methoxyazobenzene | NC1=CC=C(C=C1)N=NC1=CC(=CC=C1)OC | C13H13N3O
reactant | 4-amino-4'-methoxyazobenzene | NC1=CC=C(C=C1)N=NC1=CC=C(C=C1)OC | C13H13N3O
reactant | 4-amino-2'-chloroazobenzene | NC1=CC=C(C=C1)N=NC1=C(C=CC=C1)Cl | C12H10ClN3
reactant | 4-amino-3'-chloroazobenzene | NC1=CC=C(C=C1)N=NC1=CC(=CC=C1)Cl | C12H10ClN3
reactant | 4-amino-4'-chloroazobenzene | NC1=CC=C(C=C1)N=NC1=CC=C(C=C1)Cl | C12H10ClN3
reactant | 4-amino-2'-methoxy-4',6'-dimethylazobenzene | NC1=CC=C(C=C1)N=NC1=C(C=C(C=C1C)C)OC | C15H17N3O
reactant | 4-aminoazobenzene-3'-sulfonic acid | C1=CC(=CC(=C1)S(=O)(=O)O)N=NC2=CC=C(C=C2)N | C12H11N3O3S
reactant | 4-aminoazobenzene-4'-sulfonic acid | C1=CC(=CC=C1N)N=NC2=CC=C(C=C2)S(=O)(=O)O | C12H11N3O3S
reactant | 4-aminoazobenzene-4'-carboxylic acid | C1=CC(=CC=C1C(=O)O)N=NC2=CC=C(C=C2)N | C13H11N3O2
reactant | 4-aminoazobenzene-3,4'-disulfonic acid | C1=CC(=CC=C1N=NC2=CC(=C(C=C2)N)S(=O)(=O)O)S(=O)(=O)O | C12H11N3O6S2
reactant | 4-aminoazobenzene-3-sulfonic acid | NN=NC1=C(C=CC=C1)S(=O)(=O)O | C6H7N3O3S
product | 4-aminoazobenzene | NC1=CC=C(C=C1)N=NC1=CC=CC=C1 | C12H11N3
